### PR TITLE
Add lemma about a property of weak `τ`-transitions

### LINKED ISSUE #22: Add lemma about a property of weak `τ`-transitions
Two processes are weakly bisimilar if there exist weak `τ`-transitions between them up to weak bisimilarity. We shall add a lemma making this statement, concretely, stating `p ⇒⦇τ⦈ p' ⟹ p' ≈ q ⟹ q ⇒⦇τ⦈ q' ⟹ q' ≈ p ⟹ p ≈ q`.

### PR DESCRIPTION
**Pull request by javierdiaz72**
This resolves #22.

### CODE REVIEW

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 1]
```diff
@@ -284,6 +284,30 @@ proof -
     by simp
 qed
 
+lemma weak_tau_transitions_up_to_weak_bisimilarity_rule:
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:287]: I think the lemma name should be changed.

For one, it shouldn’t contain `tau`, as `τ` is just the symbol we use for this certain action, while the name used for it throughout the transition system framework is `silent`.

Then there is also the issue that the current lemma name doesn’t mention the aspect that the silent transitions turn the two processes into each other (up to bisimilarity).

What about `mutual_silent_weak_transitions_up_to_bisimilarity`?

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 2]
```diff
@@ -284,6 +284,30 @@ proof -
...
+  assumes
+    "p \<Rightarrow>\<lparr>\<tau>\<rparr> p'"
+  and
+    "p' \<approx> q"
+  and
+    "q \<Rightarrow>\<lparr>\<tau>\<rparr> q'"
+  and
+    "q' \<approx> p"
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:295]: All the assumptions should go on a single line, as they easily fit into it.

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 3]
```diff
@@ -284,6 +284,30 @@ proof -
...
+  shows
+    "p \<approx> q"
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:297]: Also the specification of the conclusion should go on a single line, for the same reason.

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 4]
```diff
@@ -284,6 +284,30 @@ proof -
...
+  case (simulation \<alpha> s)
+  from \<open>p \<rightarrow>\<lparr>\<alpha>\<rparr> s\<close> and \<open>q \<Rightarrow>\<lparr>\<tau>\<rparr> q'\<close> and \<open>q' \<approx> p\<close> obtain s' where "q' \<Rightarrow>\<lparr>\<alpha>\<rparr> s'" and "s' \<approx> s"
+    using transition_in_weak_transition_rule
+    by (blast elim: weak.bisimilarity.cases)
+  with \<open>q \<Rightarrow>\<lparr>\<tau>\<rparr> q'\<close> have "q \<Rightarrow>\<lparr>\<alpha>\<rparr> s'"
+    by (auto simp add: relcompp_assoc, blast intro: rtranclp_trans)
+  with \<open>s' \<approx> s\<close> show ?case
+    unfolding weak_bisimilarity_is_mixed_bisimilarity
+    by (fastforce intro: mixed.bisimilarity_symmetry_rule)
+qed (respectful, blast)
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:309]: I think there is no point conducting this proof using the mixed transition system, as we don’t need to distinguish transitions according to their actions, where having strong transitions instead of weak ones provides a clear advantage.

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 5]
```diff
@@ -284,6 +284,30 @@ proof -
...
+
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:310]: The hole proof is currently in the subsection *“Up to” Methods*, where it does not belong. Could you move it to the end of the subsection *The Weak System*?

**Review by jeltsch — CHANGES_REQUESTED** [review]
I have several change requests currently. Since in particular the change from using the mixed system to using the weak system is a bit more invasive, I’ve postponed the detailed review of the proof. I’ll conduct this once you’ve addressed the current change requests.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 1 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy:287]: Sounds good (actually, my first attempt used "`mutual_`" as the prefix :grin:).

Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Fixed in f63b992834023eaa62d56e2669bff209ff6f856c, please verify.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 2 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Fixed in 5de722f7ae50fa60ce0a18d217f8db1c0e71f59d, please verify.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 3 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Fixed in 5de722f7ae50fa60ce0a18d217f8db1c0e71f59d, please verify.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 4 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Fixed in 4ce75039b47c85039e138bff90f9341cd5733908, please verify.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 5 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Fixed in 34f054f638dd910892fca7c7dd3b28cb85effcfd, please verify.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 1 above)
Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Looks good.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 2 above)
Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Nice.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 4 above)
Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Yes, looks better now. :slightly_smiling_face:

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 5 above)
Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Very good.

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 6]
```diff
@@ -36,6 +36,20 @@ notation weak.constant_bisimilarity (\<open>[\<approx>]\<close>)
 notation weak.simulation_up_to (\<open>weak'_sim\<^bsub>_\<^esub>\<close>)
 notation weak.bisimulation_up_to (\<open>weak'_bisim\<^bsub>_\<^esub>\<close>)
 
+lemma mutual_silent_weak_transitions_up_to_bisimilarity:
+  assumes "p \<Rightarrow>\<lparr>\<tau>\<rparr> p'" and "p' \<approx> q" and "q \<Rightarrow>\<lparr>\<tau>\<rparr> q'" and "q' \<approx> p"
+  shows "p \<approx> q"
+using assms
+proof (coinduction arbitrary: p q p' q' rule: weak.symmetric_up_to_rule [where \<F> = "[\<approx>]"])
+  case (simulation \<alpha> s)
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:44]: Could you extend this to `case (simulation α s p q p' q')`? It’s not strictly necessary, but corresponds to what I’ve done throughout the transition system framework and the Þ-calculus formalization.

Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy:44]: I think `s'` should rather be `t`, according to the conventions used in similar proofs.

Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy:44]: The chained fact `q ⇒⦇τ⦈ q'` is not needed and should thus be dropped.

Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy:44]: I think it’s better to conclude `s ≈ t` instead of `t ≈ s` (`s' ≈ s`), as this better corresponds to the normal statement of `(≈)` being a simulation relation (the bisimilarity used as a chained fact has sides swapped, but this is because this way it looks better in the lemma statement).

Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy:44]: When switching from `t ≈ s` to `s ≈ t`, as described in the previous comment, the proof of this step doesn’t work anymore, but the following, perhaps even nicer, proof does:
```isabelle
using weak.bisimilarity_is_simulation
by (blast dest: weak.bisimilarity_symmetry_rule)
```

Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy:44]: Oops, I just found out that all my comments to this line except the first one are actually misplaced: they refer to the next line. Sorry.

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 7]
```diff
@@ -36,6 +36,20 @@ notation weak.constant_bisimilarity (\<open>[\<approx>]\<close>)
...
+  from \<open>p \<Rightarrow>\<lparr>\<alpha>\<rparr> s\<close> and \<open>q \<Rightarrow>\<lparr>\<tau>\<rparr> q'\<close> and \<open>q' \<approx> p\<close> obtain s' where "q' \<Rightarrow>\<lparr>\<alpha>\<rparr> s'" and "s' \<approx> s"
+    by (blast elim: weak.bisimilarity.cases)
+  with \<open>q \<Rightarrow>\<lparr>\<tau>\<rparr> q'\<close> have "q \<Rightarrow>\<lparr>\<alpha>\<rparr> s'"
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:47]: Instead of `with ‹q ⇒⦇τ⦈ q'›`, you should say `from ‹q ⇒⦇τ⦈ q'› and ‹q' ⇒⦇α⦈ t›`, since `s ≈ t` isn’t needed here.

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 8]
```diff
@@ -36,6 +36,20 @@ notation weak.constant_bisimilarity (\<open>[\<approx>]\<close>)
...
+    by (auto simp add: relcompp_assoc, blast intro: rtranclp_trans)
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:48]: I actually found a slightly simpler proof. :smiley: This proof uses the notoriously neglected `slowsimp`. :open_mouth: Which is not even slow here. :+1:

Ladies and gentlemen, the first appearance of `slowsimp` in our formalizations:
```isabelle
by (slowsimp intro: rtranclp_trans)
```

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 9]
```diff
@@ -36,6 +36,20 @@ notation weak.constant_bisimilarity (\<open>[\<approx>]\<close>)
...
+  with \<open>s' \<approx> s\<close> show ?case
+    by (fastforce intro: weak.bisimilarity_symmetry_rule)
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:50]: With `t ≈ s` (`s' ≈ s`) being replaced by `s ≈ t`, this can be simplified to `by auto`.

File: src/Transition_Systems-Weak_Transition_Systems.thy [hunk 10]
```diff
@@ -36,6 +36,20 @@ notation weak.constant_bisimilarity (\<open>[\<approx>]\<close>)
...
+qed (respectful, blast)
```
Comment (jeltsch) [inline src/Transition_Systems-Weak_Transition_Systems.thy:51]: Here, `blast` can be simplified to `iprover`.

**Review by jeltsch — CHANGES_REQUESTED** [review]
Following are a bunch of comments regarding the actual proof. Could you please take care to address the mentioned issues?

Afterwards, I’ll make a final review round, which probably won’t reveal anything anymore.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 6 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: > Could you extend this to `case (simulation α s p q p' q')`? It’s not strictly necessary, but corresponds to what I’ve done throughout the transition system framework and the Þ-calculus formalization.

Fixed in 4d1256b61eec4c2d2e641cce8a67c32ab97a30e7, please verify.

Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: > I think `s'` should rather be `t`, according to the conventions used in similar proofs.

Fixed in 0e6786045df266cc34e2717369b474ad7e6a79e9, please verify.

Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: > The chained fact `q ⇒⦇τ⦈ q'` is not needed and should thus be dropped.

Fixed in 3c0f6d6077c9fb9f2a89bd2e175c96887fd44df3, please verify.

Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: > I think it’s better to conclude `s ≈ t` instead of `t ≈ s` (`s' ≈ s`), as this better corresponds to the normal statement of `(≈)` being a simulation relation (the bisimilarity used as a chained fact has sides swapped, but this is because this way it looks better in the lemma statement).

Fixed in 048cd571e1f663f759ccdd46df32e32b1e2bf7f5, please verify.

Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: > When switching from `t ≈ s` to `s ≈ t`, as described in the previous comment, the proof of this step doesn’t work anymore, but the following, perhaps even nicer, proof does:
> 
> ```isabelle-theory
> using weak.bisimilarity_is_simulation
> by (blast dest: weak.bisimilarity_symmetry_rule)
> ```

Also fixed in 048cd571e1f663f759ccdd46df32e32b1e2bf7f5, please verify.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 7 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: > Instead of `with ‹q ⇒⦇τ⦈ q'›`, you should say `from ‹q ⇒⦇τ⦈ q'› and ‹q' ⇒⦇α⦈ t›`, since `s ≈ t` isn’t needed here.

Fixed in 4b231728b86e5c30dfffc003182b3a48a8db94ad, please verify.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 8 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: > I actually found a slightly simpler proof. smiley This proof uses the notoriously neglected `slowsimp`. open_mouth Which is not even slow here. +1
> 
> Ladies and gentlemen, the first appearance of `slowsimp` in our formalizations:
> 
> ```isabelle-theory
> by (slowsimp intro: rtranclp_trans)
> ```

:smiley: Interesting! Fixed in e7e08d888d00ea165a5d145368f89c5fc5cb5734, please verify.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 9 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: > With `t ≈ s` (`s' ≈ s`) being replaced by `s ≈ t`, this can be simplified to `by auto`.

Using `try0` I can obtain the following performance assessment:

```
Found proof: by auto (25 ms) 
Found proof: by fastforce (19 ms) 
Found proof: by force (22 ms)
```

The performance of these methods stays more or less the same across several runs of `try0`. Therefore, I think we should stick to `fastforce`. What do you think?

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 10 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Fixed in 5ac1c5f421d0bea72b17051437421ba587fc1b9f, please verify.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 6 above)
Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: All this looks good to me.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 7 above)
Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Looks good to me.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 8 above)
Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Looks great, I’d say. :slightly_smiling_face:

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 10 above)
Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Looks good.

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 9 above)
Comment (jeltsch) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: I’m not sure. So far, I’ve made my choices of proof methods according to some (not yet publicly documented) simplicity order. This order is partly inspired by the general performance of the different proof methods according to the Isabelle/Isar Reference Manual. According to this order, `auto` is simpler than `fastforce`, which in turn is simpler than `force`. Only where a “simpler” method was obviously slower, I opted for the “not so simple” method.

Of course, it makes sense to take the performance in the concrete case fully into account. That said, we can’t (at least not easily) know in each case which method is faster, as `try0` and, more generally, `try` don’t cover all proof methods. Then again, we might use timing information whenever it is available to us.

As much as I like consistency, I think it’s good to use `fastforce` here and generally switch to taking timing information from tools like `try0` into account. It’s a minor inconsistency, and it has always been a bit up to interpretation what the simplicity order of proof methods should be.

**Review by jeltsch — APPROVED** [review]

File: src/Transition_Systems-Weak_Transition_Systems.thy (hunk 9 above)
Comment (javierdiaz72) [reply src/Transition_Systems-Weak_Transition_Systems.thy]: Thanks for the elaborated explanation.
